US06589978B2
(2RS,5SR)-2-{2-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-1-methyl-1H-imidazole
The title compound, light yellow oil, MS: m/e=428.5 (M+H+), was prepared by methylation of (2RS,5SR)-2-{2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-1H-imidazole in accordance with the general method of example 8 (methyl iodide, sodium hydride).

reactant | (2RS,5SR)-2-{2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-1H-imidazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCC=1NC=CN1 | C22H24FN3O2S
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
product | (2RS,5SR)-2-{2-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-1-methyl-1H-imidazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCC=1N(C=CN1)C | C23H26FN3O2S
